US05629200
To a mixture of 5.83 g of methyl-3,4-dimethoxyphenylmethyl ketone, 5.15 g of (R)-2-amino-1-(3-chlorophenyl)ethanol and 50 mg of platinum oxide were added 15 ml of isopropyl alcohol and 30 ml of diisopropyl ether, and the reducing reaction was carried out at room temperature, at 1 atm under hydrogen atmosphere for 24 hours. After removing off platinum oxide by filtration, the solvent was distilled off under reduced pressure to give 6.51 g of white oil of (R,R)-1-(3-chlorophenyl)-2-[[2-(3,4-dimethoxyphenyl)1-methylethyl]amino]ethanol (yield 62%). The optical purity of the (R,R)-isomer was 65%.

reactant | methyl-3,4-dimethoxyphenylmethyl ketone | 5.83 g | CC(C1=CC(=C(C=C1)OC)OC)C(=O)C(C)C1=CC(=C(C=C1)OC)OC | C21H26O5
reactant | (R)-2-amino-1-(3-chlorophenyl)ethanol | 5.15 g | NC[C@H](O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | diisopropyl ether | 30 ml | C(C)(C)OC(C)C | C6H14O
catalyst | platinum oxide | 50 mg | [Pt]=O
solvent | isopropyl alcohol | 15 ml | C(C)(C)O | C3H8O
product | (R,R)-1-(3-chlorophenyl)-2-[[2-(3,4-dimethoxyphenyl)1-methylethyl]amino]ethanol | yield 62% | ClC=1C=C(C=CC1)[C@H](CN[C@@H](CC1=CC(=C(C=C1)OC)OC)C)O | C19H24ClNO3
